### ISSUE TITLE
RFC: hover for `fun_induction`

### ISSUE THREAD

**Issue by adomani** [leanprover/lean4#13673]
### Proposal

In the example below, hovering over the "function" `List.filter` shows the docstring of `fun_induction` instead of the one for `List.filter`, as I would have expected.

```lean
example : List.filter  (fun _ => true) l = l := by
  fun_induction List.filter  -- hover over `List.filter`, still see the `fun_induction` docstring
  case case1 => sorry
  case case2 ih => sorry
  case case3 ih => sorry

example {n : Unit} : n = n := by
  induction n  -- hover over `n` see the type of `n`
  case unit => sorry
```

This is of course not especially important, but I think that it would be an improvement over the current situation.

### Community Feedback

I mentioned this to Joachim Breitner who suggested opening an issue.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.
